US04920136
3-Acetyl-5-cyano-6-chloro-2-methyl-pyridine
35 g (0.2 mol) of 5-acetyl-3-cyano-6-methyl-2-pyridone* are suspended in 400 ml of chlorobenzene, 24.2 g (0.2 mol) of N,N-dimethylaniline are added, and 37 g (0.24 mol) of POCl3 are added dropwise. The mixture is then heated at 100° C. for three hours. After cooling, the mixture is cautiously poured onto water, neutralization with dilute sodium hydroxide solution is carried out, the organic phase is separated off, and the aqueous phase is again extracted with CHCl3. The combined extracts are dried with Na2SO4 and evaporated. The residue is purified by filtration through silica gel, using CH2Cl2 /ethyl acetate as eluent.

reactant | 5-acetyl-3-cyano-6-methyl-2-pyridone | 0.2 mol, 35 g | C(C)(=O)C=1C=C(C(NC1C)=O)C#N | C9H8N2O2
reactant | N,N-dimethylaniline | 0.2 mol, 24.2 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | POCl3 | 0.24 mol, 37 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chlorobenzene | 400 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 3-Acetyl-5-cyano-6-chloro-2-methyl-pyridine | C(C)(=O)C=1C(=NC(=C(C1)C#N)Cl)C | C9H7ClN2O
